US04499097
3-(4-Acetyl-5-methyl-1H-imidazol-2-yl)-1-methylpyridinium iodide
A 3.0 g (0.015 mole) amount of 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone in 300 ml of acetone was treated with 3.0 ml of methyl iodide. The reaction mixture was allowed to stand at room temperature for 24 hours. The precipitate formed was collected by filtration and was washed with 50 ml each of acetone and ether then was dried in vacuo at 60° C. to yield 1.9 g of the desired product as a yellow solid, mp 258°-260° C. (dec.).

reactant | 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone | CC1=C(N=C(N1)C=1C=NC=CC1)C(C)=O | C11H11N3O
reactant | methyl iodide | 3.0 ml | CI | CH3I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 3-(4-Acetyl-5-methyl-1H-imidazol-2-yl)-1-methylpyridinium iodide | 1.9 g | [I-].C(C)(=O)C=1N=C(NC1C)C=1C=[N+](C=CC1)C | InChI=1S/C12H13N3O.HI/c1-8-11(9(2)16)14-12(13-8)10-5-4-6-15(3)7-10;/h4-7H,1-3H3;1H
